spice
* NMOS Amplifier Circuit

M1 2 1 3 3 NMOS  ; NMOS transistor M1: Drain (2), Gate (1), Source (3), Body (3)
RS 3 5 1000      ; Resistor RS: connected between Node 3 and Ground (5)

VDD 2 0 DC 5V    ; VDD power supply: 5V connected to Node 2
VIN 1 0 DC 1V    ; Input voltage VIN: 1V connected to Node 1

.model NMOS NMOS (LEVEL=1)
.END